US04254146
3-Benzoyl-2-nitro(α-methyl)benzeneacetic Acid
A mixture of 3.0 g (0.0075 mole) of 2-(3-benzoyl-2-nitrophenyl)-2-methylpropanedioic acid, 20 ml of acetic acid and 20 ml of 20% sulfuric acid was heated at reflux under a nitrogen atomsphere overnight. The dark solution was concentrated and the residue was treated with 200 ml of 2N potassium carbonate. The mixture was triturated with diethyl ether and then filtered to remove insoluble material. The filtrate layers were separated and the aqueous layer was washed with diethylether. The aqueous solution was treated with charcoal, filtered through celite and the filtrate made acidic with 13 ml of conc. sulfuric acid. The solid which precipitated was collected by filtration and recrystallized from 2-propanol-water to yield 0.4 g (18%) of white powder, m.p. 177°-179° C.

reactant | 2-(3-benzoyl-2-nitrophenyl)-2-methylpropanedioic acid | 0.0075 mole, 3.0 g | C(C1=CC=CC=C1)(=O)C=1C(=C(C=CC1)C(C(=O)O)(C(=O)O)C)[N+](=O)[O-] | C17H13NO7
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3-Benzoyl-2-nitro(α-methyl)benzeneacetic Acid | 0.4 g, 18% | C(C1=CC=CC=C1)(=O)C=1C(=C(C=CC1)C(C(=O)O)C)[N+](=O)[O-] | C16H13NO5
